US05707985
3-(1-Acetoxy-3-naphthylsulfonyl)-3-azabicyclo[3.2.2]nonane
4-Acetoxy-2-naphthalenesulfonyl chloride (861 mg, 3.02 mmol) and 3-azabicyclo[3.2.2]nonane (379 mg, 3.02 mmol) were combined in CHCl3 (20 ml) and pyridine (20 ml), and the mixture was stirred at room temperature for 15 hours. At this time, the solvent was evaporated under reduced pressure and the residue was partitioned between EtOAc and 1N aqueous HCl. The EtOAc was then washed with saturated aqueous NaHCO3, dried over Na2SO4 and concentrated. The residue was purified by flash chromatography using 1% acetone in CHCl3 to provide 712 mg of the pure white product as a white foam: 1H NMR (CDCl3) δ 1.52-1.84 (9H, m, 4×CH2), 2.02-2.13 (2.H, br s, 2×CH) 2.46 (3H, s, CH3CO), 3.31 (4H, d, J=4.2 Hz, 2×CH2), 7.56-7.71 (3H, m, ArH), 7.92-8.02 (2H, m ArH).

reactant | 4-Acetoxy-2-naphthalenesulfonyl chloride | 3.02 mmol, 861 mg | C(C)(=O)OC1=CC(=CC2=CC=CC=C12)S(=O)(=O)Cl | C12H9ClO4S
reactant | 3-azabicyclo[3.2.2]nonane | 3.02 mmol, 379 mg | C12CNCC(CC1)CC2 | C8H15N
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-(1-Acetoxy-3-naphthylsulfonyl)-3-azabicyclo[3.2.2]nonane | 712 mg | C(C)(=O)OC1=CC(=CC2=CC=CC=C12)S(=O)(=O)N1CC2CCC(C1)CC2 | C20H23NO4S
